US05889018
A mixture of 20.4 g (0.1 mole) of 1-methyl-6,7-dimethoxyisoquinoline, 18.9 g (0.108 mole) of 2,6-dichlorobenzaldehyde and 15 ml of acetic anhydride is stirred in an oil bath of 150°-160° C. for 3 hours. The termination of the reaction is controlled by thin layer chromatography. The reaction mixture is cooled to a temperature between 5° C. and 10° C. under stirring, 30 ml of ether are added to it, the separated crystals are filtered and washed twice with cold ether. The thus-obtained raw product is recrystallized from a mixture of 600 ml of acetone and 130 ml of water, The clarified solution is stirred at a temperature between 0° C. and 5° C. for 2 hours, the separated substance is filtered, washed with 25 ml of a 6:1.3 mixture of 0° C. acetone and water and dried. Thus 28.4 g (79%) of 1-(2,6-dichlorostyryl)-6,7-dimethoxyisoquinoline are obtained.

reactant | 1-methyl-6,7-dimethoxyisoquinoline | 0.1 mole, 20.4 g | CC1=NC=CC2=CC(=C(C=C12)OC)OC | C12H13NO2
reactant | 2,6-dichlorobenzaldehyde | 0.108 mole, 18.9 g | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
reactant | acetic anhydride | 15 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ether | 30 ml | CCOCC | C4H10O
product | 1-(2,6-dichlorostyryl)-6,7-dimethoxyisoquinoline | 28.4 g, 79% | ClC1=C(C=CC2=NC=CC3=CC(=C(C=C23)OC)OC)C(=CC=C1)Cl | C19H15Cl2NO2
